US04950674
1-Acetyl-α-(4-fluorophenyl)-α-phenyl-4-piperidinemethanol
A solution (667 ml, 2 mole) phenylmagnesium bromide* (3 molar in ethyl ether) was diluted with 2 liters of anhydrous ethyl ether, cooled to 0°-10° C., and treated with a solution of 148 g (0.6 mole) of 1-acetyl-4-(p-fluorobenzoyl)piperidine in 1.5 liters of anhydrous tetrahydrofuran dropwise over a 1.5 hr period. The mixture was stirred at ambient temperature overnight and then poured into a solution of 107 g (2 mole) of ammonium chloride in 2 liters of cold water. The mixture was extracted thrice with 1 liter portions of benzene. The combined extracts were washed with water, dried over magnesium sulfate, and concentrated to give a semi-solid as residue. The semi-solid was triturated with isopropyl ether and the mass crystallized. The solid was collected by filtration and dried to yield 87.8 g (45%) of title compound as a white solid. An analytical sample was recrystallized from 2-propanol, mp 173°-175° C.

reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | 1-acetyl-4-(p-fluorobenzoyl)piperidine | 0.6 mole, 148 g | C(C)(=O)N1CCC(CC1)C(C1=CC=C(C=C1)F)=O | C14H16FNO2
reactant | ammonium chloride | 2 mole, 107 g | [Cl-].[NH4+]
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | ethyl ether | 2 liters | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 1.5 liters | O1CCCC1 | C4H8O
solvent | water | 2 liters | O | H2O
product | 1-Acetyl-α-(4-fluorophenyl)-α-phenyl-4-piperidinemethanol | 87.8 g, 45% | C(C)(=O)N1CCC(CC1)C(O)(C1=CC=CC=C1)C1=CC=C(C=C1)F | C20H22FNO2
